US04200466
(b) Preparation of 3-(4-aminoanilino)phenol
20 Grams of 3-(4-nitroanilino)phenol was reduced under ordinary pressure in alcohol by the use of a palladium-carbon catalyst. After removing the catalyst by filtration, the alcohol was distilled off under reduced pressure and the residual solids were washed with benzene. The yield was 14 g, and melting point was 146°-149° C.

reactant | 3-(4-nitroanilino)phenol | [N+](=O)([O-])C1=CC=C(NC=2C=C(C=CC2)O)C=C1 | C12H10N2O3
catalyst | palladium-carbon | [C].[Pd]
product | 3-(4-aminoanilino)phenol | NC1=CC=C(NC=2C=C(C=CC2)O)C=C1 | C12H12N2O
